US05047554
Methyl 4-Bromoacetyl-2-thiophenecarboxylate
Following the procedure of Japan Kokai Tokkyo Koho JP 60 11,487 CA 103:22580m (1985), a solution of bromine (4.29 g, 26.87 mmoles) in 40 ml of chloroform was added dropwise to a stirred solution of methyl 4-acetyl-2-thiophenecarboxylate, prepared according to Example 15 (4.95 g, 26.87 mmoles) in 150 ml of chloroform containing four drops of 50% (v/v) 48% hydrobromic acid/glacial acetic acid. After 10 minutes at 40° C. the solution was cooled to room temperature, concentrated in vacuo and the residue triturated with methanol (25 ml). Filtration furnished an off-white solid (4.96 g, 63%), m.p. 112°-4° C. EIMS (m/z): 264/262 (M+, 11%), 233/231 (M+ --CH3O, 11%), 171/169 (M+ --CH2Br, base); 1HNMR (CDCl3) delta, 8.31 (1H, d, J=1.5 Hz), 8.17 (1H, d, J=1.5 Hz), 4.29 (2H, s), 3.90 (3H, s).

reactant | bromine | 26.87 mmoles, 4.29 g | BrBr | Br2
reactant | methyl 4-acetyl-2-thiophenecarboxylate | C(C)(=O)C=1C=C(SC1)C(=O)OC | C8H8O3S
reactant | hydrobromic acid | Br | BrH
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | Methyl 4-Bromoacetyl-2-thiophenecarboxylate | 4.96 g, 63% | BrCC(=O)C=1C=C(SC1)C(=O)OC | C8H7BrO3S
